US05180837
16.4 g (52.5 mmol) of 5-dithiophenylmethyl-1-methylimidazole are dissolved in 240 ml of tetrahydrofuran and cooled to -78° C. 52.5 mmol of n-BuLi in 32 ml of hexane are added dropwise to this. After 30 minutes at -78° C., 4.9 ml (69.8 mmol) of γ-crotonolactone are added and, after a further 1.5 hours, 250 ml of water are added dropwise while cooling in dry ice, and the mixture is allowed to warm to room temperature. It is then washed with ethyl acetate, acidified with glacial acetic acid and again extracted with ethyl acetate. The organic phase is dried over magnesium sulfate and concentrated in vacuo. The residue obtained in this way (13.8 g) is chromatographed on silica gel with dichloromethane/methanol (9:1). 6.6 g (16.6 mmol, 32%) of 3-(1-methylimidazol-5-yl-(dithiophenyl)methylbutyrolactone are obtained as a white powder of melting point 80° C.

reactant | 5-dithiophenylmethyl-1-methylimidazole | 52.5 mmol, 16.4 g | S1C(=CC=C1)C(C1=CN=CN1C)C=1SC=CC1 | C13H12N2S2
reactant | n-BuLi | 52.5 mmol | [Li]CCCC
reactant | γ-crotonolactone | 69.8 mmol, 4.9 ml | C1(C=CCO1)=O | C4H4O2
reactant | water | 250 ml | O | H2O
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
solvent | hexane | 32 ml | CCCCCC | C6H14
solvent | dry ice | C(=O)=O | CO2
product | 1-methylimidazol-5-yl-(dithiophenyl)methylbutyrolactone | CN1C=NC=C1C1(C(=O)OCC1)C(C=1SC=CC1)C=1SC=CC1 | C17H16N2O2S2
